datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N+:21](C)(CCc1c[nH]c2ccc([O-])cc12)[H:20].Cc1nnc([N-:10]S(=O)(=O)c2ccc(N)cc2)s1>>C[N:21](C)CCc1c[nH]c2ccc([O-])cc12.Cc1nnc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])s1 10=20;20,21=21",
"Cc1c(C)c([O:21][H:20])c(C)c(C)c1[O-].c1cc2cn[nH]c2cc1[O-:10]>>Cc1c(C)c([O-:21])c(C)c(C)c1[O-].c1cc2cn[nH]c2cc1[O:10][H:20] 10=20;20,21=21",
"O=C(Cc1ccccc1)C(=O)[O-:10].c1ccc(Oc2ccnc3c2ccc2c(Oc4ccccc4)cc[n+:21]([H:20])c23)cc1>>O=C(Cc1ccccc1)C(=O)[O:10][H:20].c1ccc(Oc2ccnc3c2ccc2c(Oc4ccccc4)cc[n:21]c23)cc1 10=20;20,21=21",
"COc1cc(/C=N/c2ncc3nc[nH]c3n2)ccc1[O:21][H:20].Cc1ccc2cccc([O-:10])c2n1>>COc1cc(/C=N/c2ncc3nc[nH]c3n2)ccc1[O-:21].Cc1ccc2cccc([O:10][H:20])c2n1 10=20;20,21=21",
"Cc1[nH]c[n+:21]([H:20])c1CSCCNC(=[NH2+])NCCCc1c[nH]c[nH+]1.O=C(CCc1ccsc1)[O-:10]>>Cc1[nH]c[n:21]c1CSCCNC(=[NH2+])NCCCc1c[nH]c[nH+]1.O=C(CCc1ccsc1)[O:10][H:20] 10=20;20,21=21",
"C[N+:21](CO)(c1ccccc1)[H:20].N#Cc1ccccc1[O-:10]>>C[N:21](CO)c1ccccc1.N#Cc1ccccc1[O:10][H:20] 10=20;20,21=21",
"Cc1cccc([NH3+])c1C(=O)[O:21][H:20].Cn1c[n:10]c2c1C(=S)NC(=O)N2>>Cc1cccc([NH3+])c1C(=O)[O-:21].Cn1c[n+:10]([H:20])c2c1C(=S)NC(=O)N2 10=20;20,21=21",
"[H:20][NH2+:21]CC#N.CC(=O)[CH-:10][P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10](C(=O)C)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C(C#N)[NH2:21] 10=20;20,21=21",
"CC(=O)Nc1cccc2cc3ccccc3[n+:21]([H:20])c12.CC(Cc1ccccc1)[NH:10]C>>CC(=O)Nc1cccc2cc3ccccc3[n:21]c12.CC(Cc1ccccc1)[NH+:10](C)[H:20] 10=20;20,21=21",
"C[C@H]1C[NH:10][C@@H](C)CN1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[C@H]1C[NH+:10]([H:20])[C@@H](C)CN1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[C@@H]1C[C@@H]1C(=O)[O-:10].Nc1[nH]c2ccccc2[n+:21]1[H:20]>>C[C@@H]1C[C@@H]1C(=O)[O:10][H:20].Nc1[nH]c2ccccc2[n:21]1 10=20;20,21=21",
"CCC[NH:10]CC[S-].N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCC[NH+:10](CC[S-])[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CN/C=[N:10]\c1cccc(c2csc(N=C(N)N)n2)c1.O=C(COc1ccccc1)[O:21][H:20]>>CN/C=[N+:10](\c1cccc(c2csc(N=C(N)N)n2)c1)[H:20].O=C(COc1ccccc1)[O-:21] 10=20;20,21=21",
"C[Si](C)(C)c1cccc(C(=O)[O-:10])c1.O=C([O-])c1ccc2sc(Cn3cc[n+:21]([H:20])c3)cc2c1>>C[Si](C)(C)c1cccc(C(=O)[O:10][H:20])c1.O=C([O-])c1ccc2sc(Cn3cc[n:21]c3)cc2c1 10=20;20,21=21",
"CCCCCC[NH:10]CCC(=O)[O-].Nc1cc[n+:21]([H:20])c2c1ncn2CCOCP(=O)([O-])O>>CCCCCC[NH+:10](CCC(=O)[O-])[H:20].Nc1cc[n:21]c2c1ncn2CCOCP(=O)([O-])O 10=20;20,21=21",
"CCNCC[NH:10]CC.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCNCC[NH+:10](CC)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].O=C([O-])[C@H](NCC[NH:10][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-]>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].O=C([O-])[C@H](NCC[NH+:10]([C@@H](C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-] 10=20;20,21=21",
"C#CC[N:10]1CCOCC1.C=Cc1cccc[n+:21]1[H:20]>>C#CC[N+:10]1([H:20])CCOCC1.C=Cc1cccc[n:21]1 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CC(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C=C(C)C(=O)OCC[NH+:10](CC(C)C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)OCC[N:10](C)C.Cc1cc([N+](=O)[O-])cc(C)c1[O:21][H:20]>>CC(=O)OCC[N+:10](C)(C)[H:20].Cc1cc([N+](=O)[O-])cc(C)c1[O-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Clc1ccc(CC[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Clc1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC12CC3(C)CC(C)(C1)C[N:10](C2)C3.CCCCCCCCCCCCCC[N+:21](CCO)(CC(C)O)[H:20]>>CC12CC3(C)CC(C)(C1)C[N+:10]([H:20])(C2)C3.CCCCCCCCCCCCCC[N:21](CCO)CC(C)O 10=20;20,21=21",
"COc1ccc(C(=S)[N-:10]c2ccc(C)cc2)cc1.C[NH2+]C(C)(C)C(=O)[O:21][H:20]>>COc1ccc(C(=S)[N:10](c2ccc(C)cc2)[H:20])cc1.C[NH2+]C(C)(C)C(=O)[O-:21] 10=20;20,21=21",
"CC1(C)NC(C)(C)[N+]([O-:10])=C1c1ccccc1.O=C(C1CC[NH2+]C1)[O:21][H:20]>>CC1(C)NC(C)(C)[N+]([O:10][H:20])=C1c1ccccc1.O=C(C1CC[NH2+]C1)[O-:21] 10=20;20,21=21",
"[S-]c1nccc[n+:21]1[H:20].c1ccc(NC(Nc2ccccc2)=[N:10]c2ccccc2)cc1>>[S-]c1nccc[n:21]1.c1ccc(NC(Nc2ccccc2)=[N+:10](c2ccccc2)[H:20])cc1 10=20;20,21=21",
"CC(C)C1=C(Br)C=CC(=O)C([O-:10])=C1.c1c[nH]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n+:21]2[H:20])n1>>CC(C)C1=C(Br)C=CC(=O)C([O:10][H:20])=C1.c1c[nH]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n:21]2)n1 10=20;20,21=21",
"C/C(=C\C=C\C(C)C(=O)[O:21][H:20])[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].COc1cccc(OC)c1[O-:10]>>C/C(=C\C=C\C(C)C(=O)[O-:21])[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].COc1cccc(OC)c1[O:10][H:20] 10=20;20,21=21",
"CC(C)C(=O)[O-:10].N#C/C(=C\C(=O)[O:21][H:20])c1ccccc1>>CC(C)C(=O)[O:10][H:20].N#C/C(=C\C(=O)[O-:21])c1ccccc1 10=20;20,21=21",
"N#CCC(=O)N[NH2+:21][H:20].c1ccc(-c2ccc3n(n2)c(C[NH+]2CCOCC2)c[n:10]3)cc1>>N#CCC(=O)N[NH2:21].c1ccc(-c2ccc3n(n2)c(C[NH+]2CCOCC2)c[n+:10]3[H:20])cc1 10=20;20,21=21",
"COc1cccc(C(=O)CC[N+:21]2([H:20])CCOCC2)c1.c1cc(C2CCC[NH2+]2)nc(C2CCC[NH:10]2)c1>>COc1cccc(C(=O)CC[N:21]2CCOCC2)c1.c1cc(C2CCC[NH2+]2)nc(C2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"COC(=O)CC[S:21][H:20].Cc1ccc(C(=S)[N-:10]c2ccc(Cl)c(Cl)c2)cc1>>COC(=O)CC[S-:21].Cc1ccc(C(=S)[N:10](c2ccc(Cl)c(Cl)c2)[H:20])cc1 10=20;20,21=21",
